US08486967B2
b) 8-(3-Methyl-[1,2,4]thiadiazol-5-yl)-1,4-dioxa-8-aza-spiro[4.5]decane
To a prestirred solution (10 minutes at room temperature) of palladium(II) acetate (180 mg, 0.001 mmol) and 2-(dicyclohexylphosphino)biphenyl (572 mg, 0.002 mmol) in dioxane (10 mL) were added 1,4-dioxa-8-azaspiro(4,5)decane (1.3 mL, 10 mmol), 5-chloro-3-methyl-[1,2,4]thiadiazole (1.48 g, 11 mmol) and sodium tert-butylate (1.47 g, 15 mmol) and heated in the microwave at 130° C. for 15 minutes. The reaction mixture was diluted with half saturated brine, the aqueous phase was extracted with ethyl acetate, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue was purified by silica gel chromatography using ethyl acetate as eluent. The title compound was obtained as a light yellow solid (1.87 g, 77%).

reactant | 2-(dicyclohexylphosphino)biphenyl | 0.002 mmol, 572 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 1,4-dioxa-8-azaspiro(4,5)decane | 10 mmol, 1.3 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | 5-chloro-3-methyl-[1,2,4]thiadiazole | 11 mmol, 1.48 g | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | palladium(II) acetate | 0.001 mmol, 180 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-(3-Methyl-[1,2,4]thiadiazol-5-yl)-1,4-dioxa-8-aza-spiro[4.5]decane | CC1=NSC(=N1)N1CCC2(OCCO2)CC1 | C10H15N3O2S
